Question-3

* Circuit
Vin	0	1	AC	1	SIN	0	0.5	1k
Rin	1	2	1k
Rf	2	Vout	3k
R	Vout	0	1
G	Vout	0	2	0	1MEG

* Analysis
.tran 1u 0.005
*.AC 	DEC 	10	10	10MEG

* Results
.control
run
plot -V(1) V(Vout)
*plot -V(Vout)/V(1)
.endc

.end
