Question-2

* Model
.include "TSMC180.lib"
.model nch_tt nmos
.model pch_tt pmos

* Circuit
Vdd	S	0	DC	1.8
MP1	D1	D7	S	S	pch_tt W=1.165u L=0.18u
MN1	D1	D7	0	0	nch_tt W=0.18u L=0.18u
C1	D1	0	20p
MP2	D2	D1	S	S	pch_tt W=1.165u L=0.18u
MN2	D2	D1	0	0	nch_tt W=0.18u L=0.18u
C2	D2	0	20p
MP3	D3	D2	S	S	pch_tt W=1.165u L=0.18u
MN3	D3	D2	0	0	nch_tt W=0.18u L=0.18u
C3	D3	0	20p
MP4	D4	D3	S	S	pch_tt W=1.165u L=0.18u
MN4	D4	D3	0	0	nch_tt W=0.18u L=0.18u
C4	D4	0	20p
MP5	D5	D4	S	S	pch_tt W=1.165u L=0.18u
MN5	D5	D4	0	0	nch_tt W=0.18u L=0.18u
C5	D5	0	20p
MP6	D6	D5	S	S	pch_tt W=1.165u L=0.18u
MN6	D6	D5	0	0	nch_tt W=0.18u L=0.18u
C6	D6	0	20p
MP7	D7	D6	S	S	pch_tt W=1.165u L=0.18u
MN7	D7	D6	0	0	nch_tt W=0.18u L=0.18u
C7	D7	0	20p


* Analysis
.tran	20p	20u

* Results
.control
run
plot	V(D7)
.endc

.end
