Question-5a

* Circuit
Vin	Vin	0	AC	1	PWL(0 0V   0 1V   1 1V)
R	Vin	Vout	1000
C	Vout	0	1u

* Analysis
.tran 1u 0.008

* Results
.control
run
plot Vin Vout
.endc

.end
