Question-1a(i)

* Model
.include "TSMC180.lib"
.model nch_tt nmos
.model pch_tt pmos

* Circuit
Vdd	S	0	DC	1.8
MP	D	G	S	S	pch_tt W=11.65u L=0.18u
MN	D	G	0	0	nch_tt W=1.8u L=0.18u
Vin	G	0	PULSE(0	1.8 0 0 0 0.5n 1n 0)

* Analysis
.tran	0.1p	1n

* Results
.control
run
plot	V(D)	V(G)
.endc

.end
