Question-4anmosl
* Vgs value varies from 0.5,2 with a step of 0.5 *

* Circuit
M	td	tg	0	0	nch_tt	W = 15u L = 10u
Vgs	tg	0	DC	1.5
Vds	td	0	DC	0.5

* Model
.include "TSMC180.lib"
.model nch_tt nmos

* Analysis
.dc Vds 0 1.8 1m

* Results
.control
run
let ID = -Vds#branch
wrdata ../Data/4a/nmosl3.dat	V(td)	ID
plot ID vs V(td)
.endc

.end
