Question-4apmosl
* Vgs value varies from -2,-0.5 with a step of 0.5 *

* Circuit
M	td	tg	0	0	pch_tt	W = 15u L = 10u
Vgs	tg	0	DC	-0.5
Vds	td	0	DC	-0.5

* Model
.include "TSMC180.lib"
.model pch_tt pmos

* Analysis
.dc Vds -1.8 0 1m

* Results
.control
run
let ID = -Vds#branch
wrdata ../Data/4a/pmosl1.dat	V(td)	ID
plot ID vs V(td)
.endc

.end
