Question-5b

* Circuit
Vin	Vin	0	AC	1	PWL(0 0V  10ns 1V   1 1V)
R	Vin	Vout	10
C	Vout	0	1n

* Analysis
*.AC 	DEC 	10	10	10MEG
.tran 10f 12.5ns 11n

* Results
.control
run
plot Vin Vout
*plot -Vin#branch
*plot Vout/Vin
*plot phase(Vout) - phase(vin)
.endc

.end
