Question-5b
*Load Resistance is varies from 10k to 100k as steps of 10k*

* Model
.include "TSMC180.lib"
.model nch_tt nmos

* Circuit
VG	G	0	1.8
M	D	G	0	0	nch_tt W=540n L=180n
R	D	2	100k
V	2	0	DC	2.5

* Analysis
.dc VG 0 1.8 1m

* Results
.control
run 
let ID = -V#branch
let Vout = V(D)
let Vin = V(G)
*plot	Vout
plot	deriv(Vout) vs V(G)
wrdata ../Data/5b/10.dat		V(G)	deriv(Vout)
.endc

.end
