Question-1b_1

* Circuit
Vin	Vin	0	AC	1	SIN	0	1	100
R	Vin	Vout	1k
C	Vout	1	1u
Rs	1	0	100

* Analysis
.tran 1u 0.05

* Results
.control
run
plot Vin Vout
.endc

.end
