Question-1b_2

* Circuit
Vin	Vin	0	AC	1	SIN	0	1	1MEG
R	Vin	Vout	1k
C	Vout	1	1u
Rs	1	0	100

* Analysis
.tran 0.01n 5u

* Results
.control
run
plot Vin Vout
.endc

.end	
