Question-4bnmoss

* Circuit
M	td	tg	0	0	nch_tt	W = 0.27u L = 0.18u
Vgs	tg	0	DC	0.5
Vdd	td	0	DC	1.8

* Model
.include "TSMC180.lib"
.model nch_tt nmos

* Analysis
.dc Vgs 0 2 1m

* Results
.control
run
let ID = -Vdd#branch
wrdata ../Data/4b/nmoss.dat	V(tg)-0.362	ID
plot ID vs V(tg)-0.362
.endc

.end
