Question-4apmoss

* Circuit
M	td	tg	0	0	pch_tt	W = 0.27u L = 0.18u
Vgs	tg	0	DC	-0.5
Vdd	td	0	DC	-1.8

* Model
.include "TSMC180.lib"
.model pch_tt pmos

* Analysis
.dc Vgs -2 0 1m

* Results
.control
run
let ID = -Vdd#branch
wrdata ../Data/4b/pmoss.dat	V(tg)-0.388	ID
plot ID vs V(tg)-0.388
.endc

.end
