Question-1c

* Circuit
Vin	Vin	0	AC	1	SIN	0	1	1000
R	Vin	Vout	1k
C	Vout	1	1u
Rs	1	0	100

* Analysis
.AC 	DEC 	10	1	1MEG

* Results
.control
run
plot db(Vout/Vin)
plot 180*(phase(Vout) - phase(Vin))/PI
.endc

.end
