Question-2c

* Circuit
V	Vin	0	DC	2.5
R1	Vin	1	2k
D1	1	Vout	CustomDiode
R2	Vout	2	2k
D2	2	0	CustomDiode

* Model
.model CustomDiode D

* Analysis
.op

* Results
.control
let ID = -Vin#branch
run
print all
.endc

.end
