Question-5c

* Model
.include "TSMC180.lib"
.model nch_tt nmos

* Circuit
VG	G	0	PULSE(0 1 0 0 0 2u 4u)
M	D	G	0	0	nch_tt W=540n L=180n
R	D	2	75k
V	2	0	DC	2.5
C	D	0	3p

* Analysis
.tran	1n	4.2u	4u

* Results
.control
run 
let ID = -V#branch
let Vout = V(D)
let Vin = V(G)
plot	Vin
plot	Vout
.endc

.end
