Question-4dnmosl

* Circuit
M	td	tg	0	0	nch_tt	W = 15u L = 10u
Vgs	tg	0	DC	0.5
Vdd	td	0	DC	1.8

* Model
.include "TSMC180.lib"
.model nch_tt nmos

* Analysis
.dc Vgs 0 2 0.1m

* Results
.control
run
let ID = -Vdd#branch
wrdata ../Data/4d/nmosl.dat	V(tg)	log10(ID)
plot log10(ID) vs V(tg)
.endc

.end
