Question-1 for N-MOSFET

* Model
.include "TSMC180.lib"
.model nch_tt nmos

* Circuit
Vdd	G	0	DC	0.6
V	1	D	DC	0
M	D	G	0	0	nch_tt W=240n L=180n
C	1	0	1p

* Analysis
.tran	0.1p	50n

* Results
.ic	V(1) = 0.6
.control
run
let ID = V#branch
plot	ID vs V(D)
plot	V(D)/ID vs V(D)
.endc

.end
