Question-1 for P-MOSFET

* Model
.include "TSMC180.lib"
.model pch_tt pmos

* Circuit
Vdd	G	0	DC	-0.6
V	1	D	DC	0
M	D	G	0	0	pch_tt W=240n L=180n
C	1	0	1p

* Analysis
.tran	1p	200n

* Results
.ic	V(1) = -0.6
.control
run
let ID = V#branch 
plot	ID vs V(D)
plot	V(D)/ID vs V(D)
.endc

.end
